US08470803B2
To a solution of 5-(tert-butoxycarbonyl(5-cyano-6-methoxypyridin-2-yl)amino)-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl acetate (2.20 g, 3.82 mmol) in methanol (38 mL) was added 1 mol/L sodium hydroxide (11.5 mL, 11.5 mmol). The reaction was stirred at room temperature for three hours and was then neutralized with 1 mol/L hydrochloric acid until pH=6 to 7. The solvent was removed under reduced pressure and the mixture was extracted with ethyl acetate and the organic layer was washed with an aqueous boric acid solution (0.5 M) five times. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and filtered. The solvent was removed under reduced pressure. The residue was purified by column using Combiflash to give tert-butyl 5-cyano-6-methoxypyridin-2-yl(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yl)carbamate (1.302 g, 89%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.36 (s, 9H), 3.50 (s, 2H), 4.94 (s, 2H), 7.14 (dd, J=1.8, 7.8 Hz, 1H), 7.22 (s, 1H), 7.38 (d, J=8.4 Hz, 1H), 7.71 (d, J=7.8 Hz, 1H), 8.17 (d, J=8.4 Hz, 1H), 9.19 (s, 1H).

reactant | 5-(tert-butoxycarbonyl(5-cyano-6-methoxypyridin-2-yl)amino)-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl acetate | 3.82 mmol, 2.20 g | C(C)(=O)OCC1=C(C=CC(=C1)N(C1=NC(=C(C=C1)C#N)OC)C(=O)OC(C)(C)C)B1OC(C(O1)(C)C)(C)C | C27H34BN3O7
reactant | sodium hydroxide | 11.5 mmol, 1 mol/L, 11.5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | methanol | 38 mL | CO | CH4O
product | tert-butyl 5-cyano-6-methoxypyridin-2-yl(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yl)carbamate | 1.302 g, 89% | C(#N)C=1C=CC(=NC1OC)N(C(OC(C)(C)C)=O)C1=CC2=C(B(OC2)O)C=C1 | C19H20BN3O5
